Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ yo F with hx of CAD s/p CABG in ___ (___->LAD, 
SVG->diag->OM, SVG->PDA) and s/p NSTEMI in ___ with DES x3 
to RCA and POBA to D2 as well as hypertension and DM who 
presents with chest pain. 

Patient report several days of chest discomfort and SOB. She 
says the episodes come on with exertion. She has SOB and pain in 
her left shoulder associated with some diaphoresis. Symptoms 
resolve with rest. This evening she awoke from sleep with 
palpitations and chest pain for several minutes that radiated to 
both her shoulders and was associated with some sweating but no 
n/v. She has not taking any nitro for her symptoms. She has been 
taking tums with some relief. No cough, no f/c. Denies edema, 
orthopnea, PND. Reports pain feels similar to pain when she had 
stents placed in the past. 

In the ED, initial vitals were 97.9 65 184/75 18 100% RA 
Labs significant for trop negative x 1. Cr 1.4
ECG showed Vpacing 
CXR showed no pneumonia, edema, effusion
She was given full dose aspirin. 
Discussed with ___ cards who agreed with cycle trops and 
mibi. She was admitted to cardiology for further management. 
Vitals prior to transfer 64 180/95 18 95% RA 

 
Past Medical History:
1. CARDIAC RISK FACTORS: +Diabetes, +Dyslipidemia, +Hypertension 
 
2. CARDIAC HISTORY:  
CABG in ___: CAD s/p CABG ___ (LIMA->LAD, SVG->diag->OM, 
SVG->PDA) 
Cath: ___  
-- ___ to LAD patent.
-- SVG to the diagonal and OM occluded.
-- SVG to the PDA was occluded.  
-- Old 80% LAD lesion and 100% D1 occlusion. 
-- circumflex moderately diseased, 
-- RCA had serial 80% lesions --> 3 stents placed in the RCA.  
PCI: RCA PCI in ___
.
3. OTHER PAST MEDICAL HISTORY: 
-prior CVA without residual deficit  
-glaucoma  
-arthritis  
-history of heart block and dual chamber pacemaker placement in 
___  
- diastolic CHF
- PVD
- Vertigo
- HRN
- Hypothyroidism
- Depression/Anxiety

 
Social History:
___
Family History:
Her son, ___, had a history of diabetes, hypertension, 
hyperlipidemia, status post anterior ST elevation MI with a 
drug-eluting stent to the proximal LAD in ___. He had an 
ICD implanted in ___ for a nonsustained VT in the 
setting of low EF (20%).  He presented on ___ after 
syncope and ICD shocks for rapid monomorphic VT with cycle 
length 210, right bundle-branch block configuration, right 
superior axis.  There may have been 12 occurrences.  During VT 
ablation in the EP lab, he had a non-clinical VT for which 
shocked.  He had a PEA arrest from which he recovered but never 
regained normal function.  He died ___ following a 
prolonged neurological vegetative state. 

Family history also significant for coronary artery disease. 
 
Physical Exam:
Admission Physical
VS: 98.1 202/108 (181/88 on repeat) 86 18 100% RA
General: NAD, pleasant. lying comfortably flat in bed
HEENT: NCAT, PERRL, EOMI
Neck: supple, JVD at 6 cm
CV: regular rhythm, ___ systolic murmur at LLSB and apex
Lungs: CTAB, no w/r/r
Abdomen: soft, NT/ND, BS+
Ext: WWP, no c/c/e, 2+ distal pulses bilaterally
Neuro: EOMI, tongue midline. moving all extremities grossly 

Discharge physical
VS: T 98.7, BP 181/88-202/108, p 90, 100% on RA R 22
General:WDWN AAF NAD, pleasant. lying comfortably flat in bed
HEENT: NCAT, OP clear, poor dentition
Neck: supple, JVD at 6 cm
CV: regular rhythm, ___ systolic murmur at LLSB and apex
Lungs: CTAB, no w/r/r
Abdomen: soft, NT/ND, BS+
Ext: WWP, no c/c/e, 2+ DP bilaterally
Neuro:a+Ox3 moves all extremities

 
Pertinent Results:
Admission /Discharge Labs
=============================================================
___ 12:20AM   ___ PTT-30.7 ___
___ 12:20AM   PLT COUNT-209
___ 12:20AM   NEUTS-59.2 ___ MONOS-6.9 EOS-2.2 
BASOS-1.1
___ 12:20AM   WBC-7.6 RBC-4.53 HGB-12.6 HCT-40.8 MCV-90 
MCH-27.7 MCHC-30.8* RDW-13.8
___ 12:20AM   CALCIUM-9.9 PHOSPHATE-4.3 MAGNESIUM-2.1
___ 12:20AM   cTropnT-<0.01
___ 12:20AM   estGFR-Using this
___ 12:20AM   GLUCOSE-72 UREA N-48* CREAT-1.4* SODIUM-140 
POTASSIUM-4.2 CHLORIDE-102 TOTAL CO2-30 ANION GAP-12
___ 12:32AM   LACTATE-0.5
___ 06:10AM   PLT COUNT-208
___ 06:10AM   WBC-7.4 RBC-4.52 HGB-12.9 HCT-40.8 MCV-90 
MCH-28.6 MCHC-31.7 RDW-13.7
___ 06:10AM   ALBUMIN-4.1 CALCIUM-10.6* PHOSPHATE-4.0 
MAGNESIUM-2.0
___ 06:10AM   cTropnT-<0.01
___ 06:10AM   GLUCOSE-76 UREA N-42* CREAT-1.2* SODIUM-140 
POTASSIUM-4.5 CHLORIDE-101 TOTAL CO2-28 ANION GAP-16

EKG
Sinus rhythm with DDD pacing.
TRACING #1
Sinus rhythm with DDD pacing. No significant change compared to 
the previous
tracing of ___ and that of ___.
TRACING #2

CXR
 Frontal and lateral views of the chest were obtained.  The 
lungs are 
clear without focal consolidation, pleural effusion or 
pneumothorax.  The 
patient is status post CABG.  Heart size is normal with stable 
cardiac and 
mediastinal silhouettes.   Pacemaker leads end in the expected 
locations of 
the right atrium and right ventricle. Hilar contours are normal. 
Right 
hemidiaphragm eventration is similar.  
 
Brief Hospital Course:
___ yo F with hx of CAD s/p CABG in ___ (LIMA->LAD, 
SVG->diag->OM, SVG->PDA) and s/p NSTEMI in ___ with DES x3 
to RCA and POBA to D2 as well as hypertension and DM who 
presents with chest pain and palpitations. 
 
#  chest pain/palpitations:  This patient was monitored in the 
ED and transferred to the cardiology floor for further 
evaluation.  She remained chest pain free during her hospital 
stay.  Her history and risk factors  raised some concern that 
chest pain may represent unstable angina given that it awoke her 
from sleep.  However, she demonstrated no elevation in trops x2 
and, her EKG was paced. On arrival to the floor she was 
hypertensive to 200 SBP.  She was continued on her home aspirin, 
plavix, Imdur, and statin and her home carvedilol was increased 
to 37.5 bid.  Her pacemaker was interrogated and revealed no 
significant tachyarrhthymia. The interrogation demonstrated 
normal device function. 81,024 PVCs  noted with 19 PVC runs 
without electrograms available for review. Rare PVCs were noted 
on telemetry.  It was ultimately felt that her chest pain may 
have been related to her hypertension she had no concerning EKG 
changes and no elevation of troponin.  

# Chronic  systolic congestive heart failure: Patients last echo 
in ___ showed 45%. Patient appeared euvolemic on exam this 
admission.  She was continued on  carvedilol (increase dose), 
lisinopril, and torsemide, and on a low sodium diet.   

#Complete heart block s/p pacer:  Patient was V-paced on 
admission, with a normal functioning device noted above.

# hypertension - Patient was hypertensive on admission with SBPs 
in the 180-210s.  She was continued on home doses of lisinopril, 
felodipine, carvedilol, imdur.  Her carvedilol dose was 
increased to 37.5 BID.  And her BP stabilized <160s.  

# diabetes type 2:  In house her home oral antihyperglycemics 
were discontinued and she was maintained on SSI and a diabetic 
diet in house.  On discharge she was restarted on oral therapy

Transitional Issues
Patient has not been able to afford her tradjenda, and although 
her pharmacy has an RX pending for her for this medication she 
has not been taking it.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. glimepiride 2 mg oral QD 
2. Felodipine 2.5 mg PO DAILY 
3. Torsemide 5 mg PO DAILY 
4. Carvedilol 25 mg PO BID 
5. Clopidogrel 75 mg PO DAILY 
6. Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY 
7. Lisinopril 20 mg PO DAILY 
8. Vitamin D ___ UNIT PO DAILY 
9. Nitroglycerin SL 0.4 mg SL PRN chest pain  
10. Aspirin 325 mg PO DAILY 
11. Rosuvastatin Calcium 40 mg PO DAILY 

 
Discharge Medications:
1. Aspirin 325 mg PO DAILY 
2. Carvedilol 37.5 mg PO BID 
RX *carvedilol 25 mg 1.5 tablet(s) by mouth twice a day Disp 
#*45 Tablet Refills:*0
3. Clopidogrel 75 mg PO DAILY 
4. Felodipine 2.5 mg PO DAILY 
5. Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY 
6. Lisinopril 20 mg PO DAILY 
7. Nitroglycerin SL 0.4 mg SL PRN chest pain  
8. Rosuvastatin Calcium 40 mg PO DAILY 
9. Torsemide 5 mg PO DAILY 
10. Vitamin D ___ UNIT PO DAILY 
11. glimepiride 2 mg ORAL QD 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: chest pain, hypertension
Secondary: coronary artery disease
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear ___ was a pleasure caring for you at ___. You were admitted 
with chest discomfort and indigestion. You were found to have 
dangerously high blood pressures, but no sign of a heart attack. 
Your blood pressure medications were adjusted and you were able 
to be discharged home. It is very important that you take your 
medications every day and follow up with your outpatient 
providers. 

Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.
 
Followup Instructions:
___